US05635518
A mixture of 2-hydroxybiphenyl (3.0 g, 17.6 mmol), (R)-1-(2-bromoethyl)-3-piperidinecarboxylic acid ethyl ester hydrobromide (6.1 g, 17.6 mmol, EP 374801), potassium carbonate (9.7 g, 71 mmol) and methyl isobutylketone (50 ml) was heated at reflux for 22 h. The reaction mixture was allowed to cool, diluted with methyl isobutylketone and filtered. The solvent was evaporated in vacuo and the residue was purified by column chromatography (heptane/ethyl acetate=2/3) to give 2.7 g of (R)-1-(2-(2-phenylphenoxy) ethyl)-3-piperidinecarboxylic acid ethyl ester as an oil.

reactant | 2-hydroxybiphenyl | 17.6 mmol, 3.0 g | OC1=C(C=CC=C1)C1=CC=CC=C1 | C12H10O
reactant | (R)-1-(2-bromoethyl)-3-piperidinecarboxylic acid ethyl ester hydrobromide | 17.6 mmol, 6.1 g | Br.C(C)OC(=O)[C@H]1CN(CCC1)CCBr
reactant | potassium carbonate | 71 mmol, 9.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl isobutylketone | CC(=O)CC(C)C | C6H12O
solvent | methyl isobutylketone | 50 ml | CC(=O)CC(C)C | C6H12O
product | (R)-1-(2-(2-phenylphenoxy) ethyl)-3-piperidinecarboxylic acid ethyl ester | 2.7 g | C(C)OC(=O)[C@H]1CN(CCC1)CCOC1=C(C=CC=C1)C1=CC=CC=C1 | C22H27NO3
